US08168794B2
To a solution of diethyl 4-chloro-1-(3-nitropyridin-4-yl)piperidin-3-ylphosphoramidate (1.0 equiv.) in degassed EtOAc (0.1M) was added Pd/C (10% by weight) and the reaction was stirred under a hydrogen atmosphere for 18 h. Filtered and concentrated the filtrate to yield diethyl 1-(3-aminopyridin-4-yl)-4-chloropiperidin-3-ylphosphoramidate in 83% yield. LCMS (m/z): 363.1 (MH+), Rf=1.89 min.

reactant | diethyl 4-chloro-1-(3-nitropyridin-4-yl)piperidin-3-ylphosphoramidate | 1.0 equiv. | ClC1C(CN(CC1)C1=C(C=NC=C1)[N+](=O)[O-])NP(OCC)(OCC)=O | C14H22ClN4O5P
solvent | EtOAc | 0.1M | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | diethyl 1-(3-aminopyridin-4-yl)-4-chloropiperidin-3-ylphosphoramidate | 83% yield | NC=1C=NC=CC1N1CC(C(CC1)Cl)NP(OCC)(OCC)=O | C14H24ClN4O3P
